US04654362
To a stirred mixture of 11.1 parts of 3,4-dihydro-6-nitro-2H-1-benzopyran-2-carboxylic acid and 63 parts of tetrahydrofuran were added dropwise, during a 30 minutes-period, 23.6 parts of a borane dimethyl sulfide complex solution 2M in tetrahydrofuran (slightly exothermic reaction: temp. rose to 27° C.). Upon completion, the whole was heated to reflux and stirring was continued for 2 hours at reflux temperature. The reaction mixture was decomposed by the dropwise addition of 8 parts of methanol at reflux temperature. After stirring and refluxing for 10 minutes, the solvents were distilled off and the residue was taken up in water. The solution was treated with concentrate hydrochloric acid and extracted with 1,1'-oxybisethane. The extract was washed with water, dried, filtered and evaporated. The solid residue was suspended in warm 2,2'-oxybispropane. The product was filtered off and dried, yielding 7.0 parts (70%) of 3,4-dihydro-6-nitro-2H-1-benzopyran-2-methanol; mp. 96.5° C. (intermediate 8).

reactant | 3,4-dihydro-6-nitro-2H-1-benzopyran-2-carboxylic acid | [N+](=O)([O-])C=1C=CC2=C(CCC(O2)C(=O)O)C1 | C10H9NO5
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3,4-dihydro-6-nitro-2H-1-benzopyran-2-methanol | 70% | [N+](=O)([O-])C=1C=CC2=C(CCC(O2)CO)C1 | C10H11NO4
